US08431603B2
4-{7-[(Cyclopropylmethyl)(tetrahydro-2H-pyran-4-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile hydrochloride
To a mixture of 4-{7-[(cyclopropylmethyl)(tetrahydro-2H-pyran-4-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile (26.4 mg) and ethyl acetate (0.5 mL) was added hydrochloric acid in diethyl ether (1M, 54.7 μL). The mixture was stirred at room temperature for 1 hour and the solvent was removed by blowing nitrogen stream and dried to obtain the title compound (28.4 mg).

reactant | 4-{7-[(cyclopropylmethyl)(tetrahydro-2H-pyran-4-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile | 26.4 mg | C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C#N)C=C2OC)OC)OC)CC2CCOCC2 | C25H30N4O4S
reactant | ethyl acetate | 0.5 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 1M, 54.7 μL | C(C)OCC | C4H10O
product | 4-{7-[(Cyclopropylmethyl)(tetrahydro-2H-pyran-4-ylmethyl)amino]-6-methoxypyrazolo[5,1-b][1,3]thiazol-3-yl}-3,5-dimethoxybenzonitrile hydrochloride | 28.4 mg | Cl.C1(CC1)CN(C=1C(=NN2C1SC=C2C2=C(C=C(C#N)C=C2OC)OC)OC)CC2CCOCC2 | InChI=1S/C25H30N4O4S.ClH/c1-30-20-10-18(12-26)11-21(31-2)22(20)19-15-34-25-23(24(32-3)27-29(19)25)28(13-16-4-5-16)14-17-6-8-33-9-7-17;/h10-11,15-17H,4-9,13-14H2,1-3H3;1H
